### PR TITLE
Ideals and quotient rings

### PR DESCRIPTION
**Pull request by felixwellen**
* define (left-, right- and two-sided) ideals

* define quotient by a two-sided ideal

* construct the ring structure on the quotient

### CODE REVIEW

**Comment by mortberg** [comment]
Thanks for all the algebra Felix! I should have time to look closer at the code next week. But for now, can you try merging master into all of your PRs? I think that might fix the problem with the CI not being started. At least that seems to have happened for https://github.com/agda/cubical/pull/337.

**Comment by felixwellen** [comment]
Thanks! Rebase did it.

File: Cubical/Structures/Ideal.agda [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+open import Cubical.Foundations.HLevels
+open import Cubical.Foundations.Logic using ([_])
+open import Cubical.Structures.Ring
+
+private
+  variable
+    ℓ ℓ′ : Level
+
+infix 5 _∈_
+_∈_ : {X : Type ℓ } → (x : X) → (P : X → hProp ℓ′) → Type _
```
Comment (mortberg) [inline Cubical/Structures/Ideal.agda:16]: @mzeuner : Didn't you add this somewhere else in the library?

File: Cubical/Structures/Ideal.agda [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+x ∈ P = [ P x ]
+
+module _ (R′ : Ring {ℓ}) where
+  private
+    R = ⟨ R′ ⟩
+
+  open ring-syntax R′
+
+  {- by default, 'ideal' means two-sided ideal -}
```
Comment (mortberg) [inline Cubical/Structures/Ideal.agda:25]: Good :+1:

File: Cubical/Structures/Ideal.agda [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+  record isIdeal (I : R → hProp ℓ′) : Type (ℓ-max ℓ′ ℓ) where
+    field
+      +-closed : {x y : R} → x ∈ I → y ∈ I → (x + y) ∈ I
+      -closed : {x : R} → x ∈ I → - x ∈ I
+      ₀-closed : ₀ ∈ I
```
Comment (mortberg) [inline Cubical/Structures/Ideal.agda:30]: Why is this 0 so tiny?

File: Cubical/Structures/Ideal.agda [hunk 4]
```diff
@@ -0,0 +1,78 @@
...
+      ·-closedRight : {x : R} → (r : R) → x ∈ I → x · r ∈ I
+
+  {- Examples of ideals -}
+  zeroSubset : (x : R) → hProp ℓ
+  zeroSubset x = (x ≡ ₀) , ringIsSet R′ x ₀
+
+  open ring-axioms R′
+  open calculations R′
+
+  isIdealZeroIdeal : isIdeal zeroSubset
```
Comment (mortberg) [inline Cubical/Structures/Ideal.agda:59]: Nice! I wish we had a ring solver...

File: Cubical/Structures/QuotientRing.agda [hunk 5]
```diff
@@ -0,0 +1,248 @@
...
+    open isIdeal I-isIdeal
+    open ring-axioms R′
+    open calculations R′
+    R = ⟨ R′ ⟩
+
+  R/I : Type ℓ
+  R/I = R / (λ x y → x - y ∈ I)
+
+  private
+    -isDistributive : (x y : R) →  (- x) + (- y) ≡ - (x + y)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:30]: Shouldn't this be a general lemma about rings and not a private one?

File: Cubical/Structures/QuotientRing.agda [hunk 6]
```diff
@@ -0,0 +1,248 @@
...
+                                           (λ u → x + (y + u))
+                                           (ring+-comm _ _) ⟩
+            x + (y + ((- y) + (- x))) ≡⟨ cong (λ u → x + u) (ring+-assoc _ _ _) ⟩
+            x + ((y + (- y)) + (- x)) ≡⟨ cong (λ u → x + (u + (- x)))
+                                              (ring+-rinv _) ⟩
+            x + (₀ + (- x))           ≡⟨ cong (λ u → x + u) (ring+-lid _) ⟩
+            x + (- x)                 ≡⟨ ring+-rinv _ ⟩
+            ₀ ∎)
+
+    translatedDifference :
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:44]: I guess this should also be a general lemma? Maybe all of these can go into a module "theory" in the Ring file?

File: Cubical/Structures/QuotientRing.agda [hunk 7]
```diff
@@ -0,0 +1,248 @@
...
+                                                    (sym (ring+-assoc _ _ _)) ⟩
+                (a + (x + ((- x) + (- b)))) ≡⟨ (ring+-assoc _ _ _) ⟩
+                ((a + x) + ((- x) + (- b))) ≡⟨ cong (λ u → u + ((- x) + (- b)))
+                                                    (ring+-comm _ _) ⟩
+                ((x + a) + ((- x) + (- b))) ≡⟨ cong (λ u → (x + a) + u)
+                                                    (-isDistributive _ _) ⟩
+                ((x + a) - (x + b)) ∎
+
+
+    homogenity : ∀ (x a b : R)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:62]: I think you mean "homogeneity"?

File: Cubical/Structures/QuotientRing.agda [hunk 8]
```diff
@@ -0,0 +1,248 @@
...
+                 → (a - b ∈ I)
+                 → (x + a) - (x + b) ∈ I
+    homogenity x a b p = subst (λ u → u ∈ I) (translatedDifference x a b) p
+
+
+    translate : R → R/I → R/I
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:68]: I'm not super fond of this name... What is even doing? I guess the intuition for the name is that it's some affine transformation like translation?

File: Cubical/Structures/QuotientRing.agda [hunk 9]
```diff
@@ -0,0 +1,248 @@
...
+    lemma x y a x-y∈I = eq/ (x + a) (y + a) (subst (λ u → u ∈ I) calculate x-y∈I)
+      where calculate : x - y ≡ (x + a) - (y + a)
+            calculate =
+                      x - y                 ≡⟨ translatedDifference a x y ⟩
+                      ((a + x) - (a + y))   ≡⟨ cong (λ u → u - (a + y)) (ring+-comm _ _) ⟩
+                      ((x + a) - (a + y))   ≡⟨ cong (λ u → (x + a) - u) (ring+-comm _ _) ⟩
+                      ((x + a) - (y + a))   ∎
+
+
+    homogenity' : (x y : R) → (x - y ∈ I)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:92]: "homogeneity'"

File: Cubical/Structures/QuotientRing.agda [hunk 10]
```diff
@@ -0,0 +1,248 @@
...
+      where
+        pointwise-equal : ∀ (u : R/I)
+                          → translate x u ≡ translate y u
+        pointwise-equal = elimProp (λ u → isSetR/I (translate x u) (translate y u))
+                                   (λ a → lemma x y a x-y∈I)
+
+    _+/I_ : R/I → R/I → R/I
+    x +/I y = (elim R/I→R/I-isSet translate homogenity' x) y
+      where
+        R/I→R/I-isSet = (λ r →  isOfHLevelΠ 2 (λ _ → squash/))
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:104]: I think you can put the r on the LHS of = and call it `_`. You can also use the lemma "isSet\Pi"

File: Cubical/Structures/QuotientRing.agda [hunk 11]
```diff
@@ -0,0 +1,248 @@
...
+
+    +/I-comm : (x y : R/I) → x +/I y ≡ y +/I x
+    +/I-comm = elimProp (λ x → isOfHLevelΠ 1 λ y → squash/ (x +/I y) (y +/I x))
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:107]: Hmm, maybe we should have a lemma for this kind of nested elimProp's?

You can use isSet\Pi as well

File: Cubical/Structures/QuotientRing.agda [hunk 12]
```diff
@@ -0,0 +1,248 @@
...
+                                      (λ x' → elimProp (λ _ → squash/ _ _)
+                                                       λ y' → eq x' y')
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:109]: You don't have to abstract over y' if you directly apply it like this (god bless eta!)

File: Cubical/Structures/QuotientRing.agda [hunk 13]
```diff
@@ -0,0 +1,248 @@
...
+
+       where eq : (x y : R) → [ x ] +/I [ y ] ≡ [ y ] +/I [ x ]
+             eq x y i =  [ ring+-comm x y i ]
+
+    +/I-is-associative : (x y z : R/I) → x +/I (y +/I z) ≡ (x +/I y) +/I z
+    +/I-is-associative = elimProp
+                           (λ x → isOfHLevelΠ 1 λ y → isOfHLevelΠ 1 λ z → squash/ _ _)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:116]: You can use isProp\Pi2

File: Cubical/Structures/QuotientRing.agda [hunk 14]
```diff
@@ -0,0 +1,248 @@
...
+    +/I-comm : (x y : R/I) → x +/I y ≡ y +/I x
+    +/I-comm = elimProp (λ x → isOfHLevelΠ 1 λ y → squash/ (x +/I y) (y +/I x))
+                                      (λ x' → elimProp (λ _ → squash/ _ _)
+                                                       λ y' → eq x' y')
+
+       where eq : (x y : R) → [ x ] +/I [ y ] ≡ [ y ] +/I [ x ]
+             eq x y i =  [ ring+-comm x y i ]
+
+    +/I-is-associative : (x y z : R/I) → x +/I (y +/I z) ≡ (x +/I y) +/I z
+    +/I-is-associative = elimProp
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:115]: This would be nicer with some "elimProp3" lemma

File: Cubical/Structures/QuotientRing.agda [hunk 15]
```diff
@@ -0,0 +1,248 @@
...
+
+    +/I-rid : (x : R/I) → x +/I 0/I ≡ x
+    +/I-rid = elimProp (λ x → squash/ _ _) eq
+      where
+        eq : (x : R) → [ x ] +/I 0/I ≡ [ x ]
+        eq x i = [ ring+-rid x i ]
+
+    _·/I_ : R/I → R/I → R/I
+    _·/I_ =
+      elim (λ x → isOfHLevelΠ 2 (λ y → squash/))
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:156]: isSetPi2

File: Cubical/Structures/QuotientRing.agda [hunk 16]
```diff
@@ -0,0 +1,248 @@
...
+
+    ·/I-rid : (x : R/I) → x ·/I 1/I ≡ x
+    ·/I-rid = elimProp (λ x → squash/ _ _) eq
+      where
+        eq : (x : R) → [ x ] ·/I 1/I ≡ [ x ]
+        eq x i = [ ring·-rid x i ]
+
+
+    /I-ldist : (x y z : R/I) → (x +/I y) ·/I z ≡ (x ·/I z) +/I (y ·/I z)
+    /I-ldist = elimProp (λ x → isOfHLevelΠ 1 λ y → isOfHLevelΠ 1 λ z → squash/ _ _)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:214]: isPropPi2

File: Cubical/Structures/QuotientRing.agda [hunk 17]
```diff
@@ -0,0 +1,248 @@
...
+                               (λ x → elimProp (λ y → isOfHLevelΠ 1 λ z → squash/ _ _)
+                                               (λ y → elimProp (λ z → squash/ _ _)
+                                                               λ z → eq x y z))
+      where
+        eq : (x y z : R) → ([ x ] +/I [ y ]) ·/I [ z ] ≡ ([ x ] ·/I [ z ]) +/I ([ y ] ·/I [ z ])
+        eq x y z i = [ ring-ldist x y z i ]
+
+    /I-rdist : (x y z : R/I) → x ·/I (y +/I z) ≡ (x ·/I y) +/I (x ·/I z)
+    /I-rdist = elimProp (λ x → isOfHLevelΠ 1 λ y → isOfHLevelΠ 1 λ z → squash/ _ _)
```
Comment (mortberg) [inline Cubical/Structures/QuotientRing.agda:223]: isPropPi2

File: Cubical/Structures/Ideal.agda (hunk 1 above)
Comment (mortberg) [reply Cubical/Structures/Ideal.agda:16]: Never mind, I found it: https://github.com/agda/cubical/blob/master/Cubical/Foundations/Logic.agda#L282

Comment (felixwellen) [reply Cubical/Structures/Ideal.agda:16]: Good, I'll use that then (and fix the universe level to be the same for the props and the type).

File: Cubical/Structures/Ideal.agda (hunk 3 above)
Comment (felixwellen) [reply Cubical/Structures/Ideal.agda:30]: That is something I just copied from the PR on the structures (#284 ). Maybe it was used that way since 0 is not possible to use (maybe you now how that can work). I would actually prefer something like ' 0' '.

File: Cubical/Structures/QuotientRing.agda (hunk 5 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:30]: Yes, I'll move it.

File: Cubical/Structures/Ideal.agda (hunk 3 above)
Comment (mortberg) [reply Cubical/Structures/Ideal.agda:30]: I see... I have no clue. Maybe @Saizan knows?

Could one call it `0r` for ring zero? or `zeror`/`zero`?

Comment (guillaumebrunerie) [reply Cubical/Structures/Ideal.agda:30]: You cannot use the single digit `0` as an identifier indeed, but calling it `0r` should work, and `0-closed` should work as well.

Comment (felixwellen) [reply Cubical/Structures/Ideal.agda:30]: I will try 0r, that's easy to type and should look ok.

Comment (felixwellen) [reply Cubical/Structures/Ideal.agda:30]: Looks good to me, so it is 0r and 1r now.

File: Cubical/Structures/QuotientRing.agda (hunk 6 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:44]: There is already a module 'calculations' in the ring file, so I renamed it to 'theory'. And I moved the lemma to that module.

File: Cubical/Structures/QuotientRing.agda (hunk 7 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:62]: Yes

File: Cubical/Structures/QuotientRing.agda (hunk 8 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:68]: I renamed it to "pre-+/I", because it is really just the addition on the quotient, before I continue to show, that it decends to the quotient. I also renamed some lemma about it to "pre-+/I-DescendsToQuotient". I guess it is clearer now, what things are.

File: Cubical/Structures/QuotientRing.agda (hunk 9 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:92]: That has a different name now anyway.

File: Cubical/Structures/QuotientRing.agda (hunk 10 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:104]: Yes, thanks!

File: Cubical/Structures/QuotientRing.agda (hunk 11 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:107]: I saw you discovering the lemma in another PR... but I already implemented an elimProp2 and 3. And I use it now. If the other one is already merged, I can merge the two later, when I rebase.

File: Cubical/Structures/QuotientRing.agda (hunk 12 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:109]: Yes, thanks!

File: Cubical/Structures/QuotientRing.agda (hunk 14 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:115]: Done. It looks a lot nicer:)

File: Cubical/Structures/QuotientRing.agda (hunk 15 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:156]: I use one "isSetPi" now, but I do not see how to use isSetPi2

File: Cubical/Structures/QuotientRing.agda (hunk 13 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda:116]: Yes:)

File: Cubical/Structures/QuotientRing.agda (hunk 16 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda]: Yes: elimProp3.

File: Cubical/Structures/QuotientRing.agda (hunk 17 above)
Comment (felixwellen) [reply Cubical/Structures/QuotientRing.agda]: Yes: elimProp3.

**Comment by mortberg** [comment]
Thanks for the contribution!
